US04859229
using 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,5,6,7-tetrahydro-2H-cyclopenta[d]pyrimidine-2,4(3H)dione in sodium methylate/methanol with methyl iodide there is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,5,6,7-tetrahydro-1-methyl-2H-cyclopenta[d]-pyrimidine-2,4(3H)-dione, m.p. 125°-127° C.;

reactant | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,5,6,7-tetrahydro-2H-cyclopenta[d]pyrimidine-2,4(3H)dione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC2=C(C1=O)CCC2)=O)F | C16H16ClFN2O3
reactant | methyl iodide | CI | CH3I
solvent | sodium methylate methanol | C[O-].[Na+].CO
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1,5,6,7-tetrahydro-1-methyl-2H-cyclopenta[d]-pyrimidine-2,4(3H)-dione | ClC1=CC(=C(C=C1OC(C)C)N1C(N(C2=C(C1=O)CCC2)C)=O)F | C17H18ClFN2O3
